US07700786B2
Sulfuryl chloride (0.24 g, 1.8 mmol) was added to a solution of N-isopropyl-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.56 g, 1.5 mmol) in acetic acid (5 ml), and the mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was poured into ice water and extracted with ethyl acetate (20 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant. The solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a yellowish solid of N-isopropyl-4-chloro-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole-1-carboxamide (0.60 g, yield: 98.4%). mp: 89-91° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.24 (d, J=6.6 Hz, 6H), 2.63 (s, 3H), 3.90-4.10 (m, 1H), 6.40-6.65 (m, 1H), 7.38 (d, J=8.7 Hz, 1H), 7.85 (dd, J=2.0 and 8.7 Hz, 1H), 8.29 (d, J=2.0 Hz, 1H).

reactant | Sulfuryl chloride | 1.8 mmol, 0.24 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-isopropyl-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 1.5 mmol, 0.56 g | C(C)(C)NC(=O)N1N=C(C=C1C)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C15H15F3N4O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-isopropyl-4-chloro-5-methyl-3-(2-nitro-4-trifluoromethylphenyloxy)pyrazole-1-carboxamide | 0.60 g, yield: 98.4% | C(C)(C)NC(=O)N1N=C(C(=C1C)Cl)OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C15H14ClF3N4O4
